US04252809
Preparation of 2,4,7-triamino-6-(p-2-hydroxyethoxyphenyl)-pteridine
460 mg of metallic sodium are dissolved with stirring in 150 ml of 2-ethoxy-ethanol. 3.1 g (0.02 mol) of triaminonitroso-pyrimidine and 3.5 g (0.02 mol) of p-(2-hydroxyethoxy)phenyl-acetonitrile are added one after the other with stirring and the mixture is heated with stirring in a water bath at 60° C. The color of the mixture changes from violet to bright brown. After stirring for 14 hours, the reaction is over. The mixture is left to cool. Unreacted 2,4,6-triamino-nitrosopyrimidine is filtered off and the clear solution is concentrated to dryness. The precipitate is taken up in hot acetone and the crude product is precipitated by admixture with petroleum ether. Purification follows first by recrystallization from butanol and then by separation on a silica gel-dry column (silica gel 60 Merck). The compound mentioned in the title is obtained as yellow-brown crystals.

reactant | sodium | 460 mg | [Na] | Na
reactant | triaminonitroso-pyrimidine | 0.02 mol, 3.1 g | NC1=C(C(=NC(=N1)N=O)N)N | C4H6N6O
reactant | p-(2-hydroxyethoxy)phenyl-acetonitrile | 0.02 mol, 3.5 g | OCCOC1=CC=C(C=C1)CC#N | C10H11NO2
solvent | 2-ethoxy-ethanol | 150 ml | C(C)OCCO | C4H10O2
product | 2,4,7-triamino-6-(p-2-hydroxyethoxyphenyl)-pteridine | NC1=NC2=NC(=C(N=C2C(=N1)N)C1=CC=C(C=C1)OCCO)N | C14H15N7O2
